US09227978B2
tert-Butyl 4-(2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazine-1-carboxylate
To a stirred solution of 2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carboxylic acid (500 mg, 1.68 mmol) in DMF (10 mL) at room temperature, tert-butyl piperazine-1-carboxylate (345 mg, 1.85 mmol), BOP (892 mg, 2.02 mmol) and DIEA (542 mg, 4.2 mmol) were added and the resulting mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with ethyl acetate and washed with brine. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (550 mg, 70% yield). ESI-MS m/z: 465.4[M+H]+.

reactant | 2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carboxylic acid | 1.68 mmol, 500 mg | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)OC)C(=O)O | C14H10Cl2O3
reactant | tert-butyl piperazine-1-carboxylate | 1.85 mmol, 345 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | BOP | 2.02 mmol, 892 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 4.2 mmol, 542 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(2′,6-dichloro-4-methoxy-[1,1′-biphenyl]-3-carbonyl)piperazine-1-carboxylate | 550 mg, 70% yield | ClC1=C(C=CC=C1)C1=CC(=C(C=C1Cl)OC)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C23H26Cl2N2O4
